US04666917
3,6-Bis[2-(diethylamino)ethoxy]-4,5-acridinedimethanol
To a solution of 23.43 g of 3,6-bis(2-diethylaminoethoxy)acridine trihydrochloride (U.S. Pat. No. 3,740,403) in 85 ml of concentrated sulfuric acid was added 2.94 g of paraformaldehyde. The mixture was stirred 45 minutes, then added to 1.5 liters of ether. The resulting solid was collected, dissolved in water, sodium bicarbonate was added and the mixture extracted with six 75 ml portions of chloroform. These extracts were placed on an alumina column which was then eluted with ether and then methylene chloride. The methylene chloride extract was concentrated, giving 4.0 g of the desired product as yellow crystals, mp 95°-96° C.

reactant | 3,6-bis(2-diethylaminoethoxy)acridine trihydrochloride | 23.43 g | Cl.Cl.Cl.C(C)N(CCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCN(CC)CC)CC
reactant | paraformaldehyde | 2.94 g | C=O | CH2O
reactant | ether | 1.5 liters | CCOCC | C4H10O
solvent | sulfuric acid | 85 ml | S(O)(O)(=O)=O | H2O4S
product | 3,6-Bis[2-(diethylamino)ethoxy]-4,5-acridinedimethanol | 4.0 g | C(C)N(CCOC=1C=CC2=CC=3C=CC(=C(C3N=C2C1CO)CO)OCCN(CC)CC)CC | C27H39N3O4
